### PR TITLE
[Merged by Bors] - feat: lemmas about partitions of unity

### PR DESCRIPTION
**Pull request by grunweg**
- add `finsupport`: the support (the set of indices which functions are non-vanishing) at a point, as a `Finset`
- every point has a neighbourhood on which only finitely many functions are non-vanishing

From sphere-eversion; I'm just upstreaming results.

### CODE REVIEW

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 1]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
   (single_le_finsum i (f.locallyFinite.point_finite x) fun j => f.nonneg j x).trans (f.sum_le_one x)
 #align partition_of_unity.le_one PartitionOfUnity.le_one
 
+section finsupport
+/-- The support of a partition of unity at a point `x₀`
+  (i.e., the set of `i` such that `f i` doesn't vanish at `x₀`), as a `Finset`. -/
+def finsupport {s : Set X} (ρ : PartitionOfUnity ι X s) (x₀ : X) : Finset ι :=
+  (ρ.locallyFinite.point_finite x₀).toFinset
```
Comment (ocfnash) [inline Mathlib/Topology/PartitionOfUnity.lean:181]: After adding `variable` above
```suggestion
def finsupport : Finset ι := (ρ.locallyFinite.point_finite x₀).toFinset
```
and likewise everywhere below.

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 2]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
...
+  rw [ρ.coe_finsupport]
+
+theorem sum_finsupport' {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
+    (hx₀ : x₀ ∈ s := by trivial) {I : Finset ι} (hI : ρ.finsupport x₀ ⊆ I) :
+    ∑ i in I, ρ i x₀ = 1 := by
+  classical
+  rw [← Finset.sum_sdiff hI, ρ.sum_finsupport hx₀]
+  suffices ∑ i in I \ ρ.finsupport x₀, ρ i x₀ = 0 by rw [this, zero_add]
+  suffices : ∑ i in I \ ρ.finsupport x₀, (ρ i) x₀ = ∑ i in I \ ρ.finsupport x₀, 0
+  rw [this, Finset.sum_const_zero]
```
Comment (ocfnash) [inline Mathlib/Topology/PartitionOfUnity.lean:209]:
```suggestion
  suffices ∑ i in I \ ρ.finsupport x₀, (ρ i) x₀ = ∑ i in I \ ρ.finsupport x₀, 0 by
    rw [this, add_left_eq_self, Finset.sum_const_zero]
```

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 3]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
...
+  simp only [Finset.mem_sdiff, ρ.mem_finsupport, mem_support, Classical.not_not] at hx
+  exact hx.2
+
+theorem sum_finsupport_smul {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
+    {M : Type _} [AddCommGroup M] [Module ℝ M] (φ : ι → X → M) :
+    ∑ i in ρ.finsupport x₀, ρ i x₀ • φ i x₀ = ∑ᶠ i, ρ i x₀ • φ i x₀ := by
+  apply (finsum_eq_sum_of_support_subset _ _).symm
+  erw [ρ.coe_finsupport x₀, support_smul]
+  exact inter_subset_left _ _
+end finsupport
```
Comment (ocfnash) [inline Mathlib/Topology/PartitionOfUnity.lean:221]:
```suggestion

end finsupport
```

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 4]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
...
+  apply Finset.sum_congr rfl
+  rintro x hx
+  simp only [Finset.mem_sdiff, ρ.mem_finsupport, mem_support, Classical.not_not] at hx
+  exact hx.2
+
+theorem sum_finsupport_smul {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
+    {M : Type _} [AddCommGroup M] [Module ℝ M] (φ : ι → X → M) :
+    ∑ i in ρ.finsupport x₀, ρ i x₀ • φ i x₀ = ∑ᶠ i, ρ i x₀ • φ i x₀ := by
+  apply (finsum_eq_sum_of_support_subset _ _).symm
+  erw [ρ.coe_finsupport x₀, support_smul]
```
Comment (ocfnash) [inline Mathlib/Topology/PartitionOfUnity.lean:219]: I slightly prefer avoiding the `erw`
```suggestion
  have : (fun i ↦ (ρ i) x₀ • φ i x₀) = (fun i ↦ (ρ i) x₀) • (fun i ↦ φ i x₀) := rfl
  rw [ρ.coe_finsupport x₀, this, support_smul]
```
but only slightly because I was hoping we had a lemma for what I've called `this` above but it seems not.

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 5]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
...
+  rw [← Finset.sum_sdiff hI, ρ.sum_finsupport hx₀]
+  suffices ∑ i in I \ ρ.finsupport x₀, ρ i x₀ = 0 by rw [this, zero_add]
+  suffices : ∑ i in I \ ρ.finsupport x₀, (ρ i) x₀ = ∑ i in I \ ρ.finsupport x₀, 0
+  rw [this, Finset.sum_const_zero]
+  apply Finset.sum_congr rfl
+  rintro x hx
+  simp only [Finset.mem_sdiff, ρ.mem_finsupport, mem_support, Classical.not_not] at hx
+  exact hx.2
+
+theorem sum_finsupport_smul {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
```
Comment (ocfnash) [inline Mathlib/Topology/PartitionOfUnity.lean:215]: Given that the whole point of this lemma is to obtain a `finsum`, I think it should belongs in the name:
```suggestion
theorem sum_finsupport_smul_eq_finsum {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please feel free to merge after applying the suggestions.

bors d+

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 6]
```diff
@@ -174,6 +174,52 @@ theorem le_one (i : ι) (x : X) : f i x ≤ 1 :=
...
+theorem mem_finsupport {s : Set X} (ρ : PartitionOfUnity ι X s) (x₀ : X) {i} :
+    i ∈ ρ.finsupport x₀ ↔ i ∈ support fun i ↦ ρ i x₀ := by
+  simp only [finsupport, mem_support, Finite.mem_toFinset, mem_setOf_eq]
+
+theorem sum_finsupport {s : Set X} (ρ : PartitionOfUnity ι X s) {x₀ : X}
+    (hx₀ : x₀ ∈ s := by trivial) :
+    ∑ i in ρ.finsupport x₀, ρ i x₀ = 1 := by
+  have := ρ.sum_eq_one hx₀
+  rwa [finsum_eq_sum_of_support_subset] at this
+  rw [ρ.coe_finsupport]
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/PartitionOfUnity.lean:200]: Much better! TIL.

**Comment by grunweg** [comment]
Thanks for the review!
bors r+
